US05198450
To a mixture of 9 ml of acetic acid, 6 ml of water, and 1.0 g of zinc powder was gradually added 2 mmol of N-[4-(4-nitrophenyl)butanoyl]thiazolidine at room temperature in small portions with stirring. After the addition, the mixture was stirred for 2 hours at the same temperature to complete the reaction. Zinc powder was removed by filtration. The filtrate was weakly alkalinized with 10% sodium hydroxide and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel to obtain 335 mg of colorless crystals of N-[4-(4-aminophenyl)butanoyl]thiazolidine (yield: 67%).

reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
reactant | N-[4-(4-nitrophenyl)butanoyl]thiazolidine | 2 mmol | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)N1CSCC1 | C13H16N2O3S
catalyst | zinc | 1.0 g | [Zn] | Zn
solvent | water | 6 ml | O | H2O
product | N-[4-(4-aminophenyl)butanoyl]thiazolidine | yield: 67% | NC1=CC=C(C=C1)CCCC(=O)N1CSCC1 | C13H18N2OS
